US09145380B2
2-[2-(4-Cyclopentylphenyl)ethylsulfonylamino]benzenesulfonamide
(E)-2-(2-(4-Cyclopentenylphenyl)vinylsulfonamido)benzenesulfonamide (25.00 mg, 0.06 mmol) was dissolved in EtOAc (1.6 mL) and MeOH (1.6 mL) and hydrogenated under continuous flow hydrogenation conditions (full hydrogen, flow 1 ml/min, ethyl acetate/methanol 1:1 as eluent) at 50° C. using an H-Cube system. The solvent was removed in vacuo and the residue was purified by column chromatography on silica using heptane/ethyl acetate gradient mixtures as eluent (0-100% ethyl acetate) to give the product as a solid (14 mg, 55%).

reactant | (E)-2-(2-(4-Cyclopentenylphenyl)vinylsulfonamido)benzenesulfonamide | 0.06 mmol, 25.00 mg | C1(=CCCC1)C1=CC=C(C=C1)/C=C/S(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N | C19H20N2O4S2
reactant | MeOH | 1.6 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | EtOAc | 1.6 mL | CCOC(=O)C | C4H8O2
product | 2-[2-(4-Cyclopentylphenyl)ethylsulfonylamino]benzenesulfonamide | 14 mg, 55% | C1(CCCC1)C1=CC=C(C=C1)CCS(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N | C19H24N2O4S2
